US04443631
A solution of 96 grams (0.50 mole) of crude 4-bromo-2-fluoroaniline and 60.0 grams (1.0 mole) of glacial acetic acid in 100 ml of benzene is added dropwise over 7 hours to a mixture of 69.0 grams (1.0 mole) of sodium nitrite, 69 ml water, and 700 ml of benzene kept at 65° C. The mixture is then allowed to stir at 65° C. overnight (12 hours) under a nitrogen atmosphere. The cooled mixture is washed twice with 400 ml of 1 N hydrochloric acid, then heated under reflux overnight (13 hours) with 20 grams (0.36 mole) of iron powder, 250 ml of methanol, and 150 ml (1.8 moles) of concentrated hydrochloric acid. The resultant solution is cooled and the benzene layer is washed with 490 ml of water, and evaporated at 40° C./40 mm Hg. The resultant dark oil is distilled at 10 mm Hg pressure to obtain 64.6 grams (51.5%) of 4-bromo-2-fluorobiphenyl as the entire distillate of boiling point mostly ~132~141° C./8 mm. The product crystalizes on seeding.

reactant | 4-bromo-2-fluoroaniline | 0.50 mole, 96 grams | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | acetic acid | 1.0 mole, 60.0 grams | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.0 mole, 69.0 grams | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1.8 moles, 150 ml | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | iron | 0.36 mole, 20 grams | [Fe] | Fe
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 69 ml | O | H2O
product | 4-bromo-2-fluorobiphenyl | 64.6 grams, 51.5% | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
